US09024027B2
To a solution of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.200 g, 0.476 mmol) in DCM (15 ml), DMAP (0.070 g, 0.571 mmol), EDC (0.274 g, 1.428 mmol) and 2-(6-morpholino-2,3-dioxoindolin-1-yl)acetic acid (0.166 g, 0.571 mmol) were added in one portion at room temperature, and the resulting solution was stirred overnight. The solvent was removed under vacuum and the crude was purified by silica gel flash chromatography (DCM:MeOH=98:2) to afford a red solid. After trituration with diethyl ether (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(6-morpholino-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide was obtained (0.145 mg, 0.209 mmol, 44% yield). MS/ESI+ 692.31 [MH]+; [αD]=+227.4, c=0.25, MeOH; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.33 (s, 2H), 7.44 (d, 1H), 7.17 (d, 1H), 7.04 (d, 1H), 6.94 (dd, 1H), 7.08 (t, 1H), 6.59 (dd, 1H), 6.48 (d, 1H), 6.01 (dd, 1H), 4.56 (s, 2H), 3.90 (d, 2H), 3.63-3.80 (m, 4H), 3.43-3.55 (m, 4H), 3.37 (dd, 1H), 3.18 (dd, 1H), 1.13-1.35 (m, 1H), 0.50-0.66 (m, 2H), 0.23-0.48 (m, 2H)

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 0.200 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.428 mmol, 0.274 g
reactant | 2-(6-morpholino-2,3-dioxoindolin-1-yl)acetic acid | 0.571 mmol, 0.166 g | O1CCN(CC1)C1=CC=C2C(C(N(C2=C1)CC(=O)O)=O)=O | C14H14N2O5
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.571 mmol, 0.070 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | diethyl ether (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(6-morpholino-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide | 44% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(C2=CC=C(C=C12)N1CCOCC1)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-].C(C)OCC | InChI=1S/C32H29Cl2F2N3O8.C4H10O/c33-23-14-38(43)15-24(34)22(23)13-27(19-3-6-26(47-32(35)36)28(11-19)45-17-18-1-2-18)46-29(40)16-39-25-12-20(37-7-9-44-10-8-37)4-5-21(25)30(41)31(39)42;1-3-5-4-2/h3-6,11-12,14-15,18,27,32H,1-2,7-10,13,16-17H2;3-4H2,1-2H3/t27-;/m0./s1
